US08623901B2
(2-Pyrrol-1-yl-phenyl)-acetonitrile
Under inert atmosphere a solution of 500 mg (3.783 mmol) of 2-Aminophenylacetonitrile and 1 mL (7.566 mmol) of 2,5-Dimethoxytetrahydrofuran in 5 mL of acetic acid was heated to 60° C. for 2 hours. After cooling the reaction mixture was concentrated under reduced pressure. The residue was purified by flash chromatography on SiO2 using cyclohexane/ethyl acetate mixture of increasing polarity (from 100% cyclohexane to 100% ethyl acetate) as eluent. The title compound was obtained as a light yellow oil (470 mg, 68.2%).

reactant | 2-Aminophenylacetonitrile | 3.783 mmol, 500 mg | NC1=C(C=CC=C1)CC#N | C8H8N2
reactant | 2,5-Dimethoxytetrahydrofuran | 7.566 mmol, 1 mL | COC1OC(CC1)OC | C6H12O3
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | (2-Pyrrol-1-yl-phenyl)-acetonitrile | N1(C=CC=C1)C1=C(C=CC=C1)CC#N | C12H10N2
